US06355635B1
Sodium triacetoxyborohydride (20.2 g) was added to a suspension of 1-{5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine (23.8 g), acetic acid (5.1 mL), and isobutyraldehyde (6.35 mL) in THF (250 mL). The resultant suspension was stirred at ambient temperature for 18 hours, and then the reaction mixture was diluted with 1 N NaOH (1000 mL) and ethyl acetate (450 mL). The layers were separated, and the organic phase was diluted with hexanes (1000 mL). The resultant precipitate was collected by filtration, and the mother liquors were concentrated to 400 mL. The second crop of precipitate was collected and combined with the first crop to provide 1-{5-[5(3,4,-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isobutyl-piperazine (22.5 g).

reactant | Sodium triacetoxyborohydride | 20.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-{5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine | 23.8 g | ClC=1C=C(C=CC1Cl)C=1N=C(NC1)C=1C=CC(=NC1)N1CCNCC1 | C18H17Cl2N5
reactant | acetic acid | 5.1 mL | C(C)(=O)O | C2H4O2
reactant | isobutyraldehyde | 6.35 mL | C(C(C)C)=O | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1 N, 1000 mL | [OH-].[Na+]
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
product | 1-{5-[5(3,4,-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isobutyl-piperazine | 22.5 g | ClC=1C=C(C=CC1Cl)C1=CN=C(N1)C=1C=CC(=NC1)N1CCN(CC1)CC(C)C | C22H25Cl2N5
